US04898871
5-Chloro-6-(7-chloro-1,8-naphthyridin-2-yl)-6,7-dihydro-7-oxo-5H-pyrrolo[3,4-b]pyrazine is prepared in a manner similar to that described in Example 6 for the preparation of 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone, but starting with 5-hydroxy-6-(7-methoxy-1,8-naphthyridin-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine (23.2 g), sulphinyl chloride (300 cc) and dimethylformamide (1 cc). 5-Chloro-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]-pyrazine (21 g ) m.p. 264° C., is thereby obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 5-hydroxy-6-(7-methoxy-1,8-naphthyridin-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | 23.2 g | OC1N(C(C2=NC=CN=C21)=O)C2=NC1=NC(=CC=C1C=C2)OC | C15H11N5O3
reactant | sulphinyl chloride | 300 cc | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 1 cc | CN(C=O)C | C3H7NO
product | 5-Chloro-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]-pyrazine | 21 g | ClC1N(C(C2=NC=CN=C21)=O)C2=NC1=NC(=CC=C1C=C2)Cl | C14H7Cl2N5O
